US08106392B2
18.32 g (30.66 mmol) of the obtained 9,10-di(2-biphenylyl)-2-bromo-9,10-dihydroanthracene-9,10-diol, 9.16 g (55.19 mmol) of potassium iodide, 17.55 g (165.56 mmol) of sodium phosphinate monohydrate, and 150 mL of glacial acetic acid were put into a three-neck flask, and the mixture was stirred for 5 hours at 120° C. Thereafter, 100 mL of 50% phosphinic acid was added to the mixture, followed by stirring for 1 hour at 120° C. After the reaction, the solution was washed with water, and the precipitate was filtered, recrystallized with chloroform and hexane, obtaining 11.4 g of 9,10-di(2-biphenylyl)-2-bromoanthracene as a light yellow solid in 66% yield.

reactant | 9,10-di(2-biphenylyl)-2-bromo-9,10-dihydroanthracene-9,10-diol | 30.66 mmol, 18.32 g | C1(=C(C=CC=C1)C1(C2=CC=CC=C2C(C=2C=CC(=CC12)Br)(O)C1=C(C=CC=C1)C1=CC=CC=C1)O)C1=CC=CC=C1 | C38H27BrO2
reactant | potassium iodide | 55.19 mmol, 9.16 g | [I-].[K+]
reactant | sodium phosphinate monohydrate | 165.56 mmol, 17.55 g | O.[PH2]([O-])=O.[Na+]
reactant | phosphinic acid | 100 mL | [PH2](O)=O | H3O2P
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 9,10-di(2-biphenylyl)-2-bromoanthracene | 11.4 g, 66% yield | C1(=C(C=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)Br)C1=C(C=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C38H25Br
